US08242133B2
To a mixture of 0.42 g of N-[3-chloro-5-(trifluoromethyl)-2-hydroxyphenyl]isonicotinamide, 5 ml of tetrahydrofuran and 0.38 g of triphenylphosphine, 0.64 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature. The reaction mixture was stirred while heating at room temperature for one hour and then at 50° C. for 2.5 hours. The reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2-(pyridin-4-yl)-7-chloro-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 64”).

reactant | N-[3-chloro-5-(trifluoromethyl)-2-hydroxyphenyl]isonicotinamide | 0.42 g | ClC=1C(=C(C=C(C1)C(F)(F)F)NC(C1=CC=NC=C1)=O)O | C13H8ClF3N2O2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 0.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | toluene | 0.64 g | C1(=CC=CC=C1)C | C7H8
product | 2-(pyridin-4-yl)-7-chloro-5-(trifluoromethyl)benzoxazole | N1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2Cl)C(F)(F)F | C13H6ClF3N2O
